US08133908B2
Description 16: 6-Methyl-3-(propyloxy)-2-pyridinecarboxylic acid (D16)
In a 500 ml round-bottom flask [6-methyl-3-(propyloxy)-2-pyridinyl]methanol D14 (3.50 g) was suspended in water (16 ml) and KMnO4 (6.10 g, 38.60 mmol) and KOH (1 M aqueous solution, 19 ml, 19 mmol) were added. The mixture was stirred at room temperature for 2 hours. The pH was adjusted to pH=4 by addition of a 1 M aqueous HCl solution and then MeOH (100 ml) was added. The solid was filtered off, volatiles were removed under reduced pressure and the aqueous phase was extracted twice with DCM. The collected organic layers were washed with brine, dried (Na2SO4) and concentrated under reduced pressure to afford the title compound D16 (2 g). MS: (ES/+) m/z: 196 (M+1). C10H13NO2 requires 195. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 12.96 (bs, 1 H), 7.49 (d, 1 H), 7.31 (d, 1 H), 3.98 (t, 2H), 2.40 (s, 3 H), 1.60-1.80 (m, 2 H), 0.96 (t, 3 H).

reactant | [6-methyl-3-(propyloxy)-2-pyridinyl]methanol | CC1=CC=C(C(=N1)CO)OCCC | C10H15NO2
reactant | KMnO4 | 38.60 mmol, 6.10 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | KOH | 19 mmol, 1 M, 19 ml | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | water | 16 ml | O | H2O
solvent | MeOH | 100 ml | CO | CH4O
product | 6-Methyl-3-(propyloxy)-2-pyridinecarboxylic acid | CC1=CC=C(C(=N1)C(=O)O)OCCC | C10H13NO3
